US03951970
2-[1-(Morpholino)methyl] -5-(3-methyl-2-octyl)-resorcinol ##SPC8##
2.36 g (0.01 mole) of 5-(3-methyl-2-octyl)resorcinol was dissolved in 40 ml of absolute ethanol and 0.73 g (0.01 mole) of morpholine was added. The solution was cooled in ice/salt bath and 0.91 g (0.018 mole) of formaldehyde solution (37.2% w/w) was added. The temperature was kept at 5°C for 2 hours. The mixture was then slowly allowed to rise to room temperature overnight. The alcohol was removed in vacuo and the residue was dissolved in ether. The ether extract was washed with water, dried and evaporated to leave a gum which was purified by chromatography on activated magnesium silicate and eluted with 5% methanol/ether mixture. Fractions showing one spot on thin layer chromatograph (10% methanol/chloroform) were combined and evaporated to leave 2.5 g (74%) of a gum. Nmr spectra was in agreement with the structure.

reactant | 5-(3-methyl-2-octyl)resorcinol | 0.01 mole, 2.36 g | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | morpholine | 0.01 mole, 0.73 g | N1CCOCC1 | C4H9NO
reactant | formaldehyde | 0.018 mole, 0.91 g | C=O | CH2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[1-(Morpholino)methyl] -5-(3-methyl-2-octyl)-resorcinol | 2.5 g, 74% | O1CCN(CC1)CC1=C(O)C=C(C=C1O)C(C)C(CCCCC)C | C20H33NO3
